US09125901B2
N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide (EDC, 206 mg, 1.34 mmol) is added to a solution of N1-isopropylbenzene-1,2-diamine (100 mg, 0.67 mmol) and methyl 4-isothiocyanatobenzoate (138 mg, 0.67 mmol) in tetrahydrofuran. The reaction may be heated to reflux for a time period (for example 2 hours) and cooled to room temperature. The mixture may be diluted with ethyl acetate, filtered and concentrated. The residue may be purified by any method, including Biotage column chromatography to give methyl 4-(1-isopropyl-1H-benzo[d]imidazol-2-ylamino)benzoate (122 mg)

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide | 1.34 mmol, 206 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | N1-isopropylbenzene-1,2-diamine | 0.67 mmol, 100 mg | C(C)(C)NC=1C(=CC=CC1)N | C9H14N2
reactant | methyl 4-isothiocyanatobenzoate | 0.67 mmol, 138 mg | N(=C=S)C1=CC=C(C(=O)OC)C=C1 | C9H7NO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(1-isopropyl-1H-benzo[d]imidazol-2-ylamino)benzoate | 122 mg | C(C)(C)N1C(=NC2=C1C=CC=C2)NC2=CC=C(C(=O)OC)C=C2 | C18H19N3O2
